US08669266B2
(ii) 4-{2-[(4-Benzyloxycarbonylmethoxy-6,7-dimethyl-quinoline-2-carbonyl)-amino]-acetyl}-piperazine-1-carboxylic acid butyl ester
To a solution of 250 mg 4-{2-[(4-Hydroxy-6,7-dimethyl-quinoline-2-carbonyl)-amino]-acetyl}-piperazine-1-carboxylic acid butyl ester in 1.5 ml of DMF, 202 mg of cesium carbonate and 142 mg of Bromo-acetic acid benzyl ester were added and the reaction mixture was stirred for 12 h at RT. Then, the reaction mixture was diluted with water and extracted with ethyl acetate. The organic phase was dried over MgSO4 and the solvents were removed under reduced pressure. The isolated crude product was pure enough for the next reaction step. Yield: 290 mg.

reactant | 4-{2-[(4-Hydroxy-6,7-dimethyl-quinoline-2-carbonyl)-amino]-acetyl}-piperazine-1-carboxylic acid butyl ester | 250 mg | C(CCC)OC(=O)N1CCN(CC1)C(CNC(=O)C1=NC2=CC(=C(C=C2C(=C1)O)C)C)=O | C23H30N4O5
reactant | cesium carbonate | 202 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | Bromo-acetic acid benzyl ester | 142 mg | C(C1=CC=CC=C1)OC(CBr)=O | C9H9BrO2
solvent | DMF | 1.5 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 4-{2-[(4-Benzyloxycarbonylmethoxy-6,7-dimethyl-quinoline-2-carbonyl)-amino]-acetyl}-piperazine-1-carboxylic acid butyl ester | C(CCC)OC(=O)N1CCN(CC1)C(CNC(=O)C1=NC2=CC(=C(C=C2C(=C1)OCC(=O)OCC1=CC=CC=C1)C)C)=O | C32H38N4O7
